US04293481
A mixture of (2S,3S)-3-[(benzyloxycarbonyl) amino]-2-hydroxy-4-phenylbutanoic acid (658 mg, 2 mmol), L-Ala-L-Pro t-butyl ester (580 mg, 2.4 mmol), hydroxybenzotriazole hydrate (368 mg, 2.4 mmol) and triethylamine (0.28 ml, 2 mmol) in 20 ml of tetrahydrofuran is cooled in an ice bath. While stirring the mixture, a solution of N,N'-dicyclohexylcarbodiimide (412 mg, 2 mmol) in dichloromethane (20 ml) is added dropwise in 15 minutes. The mixture is stirred for about 16 hours at room temperature. The mixture is filtered through diatomaceous earth and the filtrate is taken to dryness in vacuo. The residue is dissolved in ethyl acetate, washed twice with 10%; potassium sulfate solution, once with water, dried and freed of solvent in vacuo leaving 1.1 g of (S,S)-1-[N-[3-[benzyloxycarbonyl)-amino]-2-hydroxy-1-oxo-4-phenylbutyl]-L-alanyl]-L-proline, t-butyl ester. A small sample of this product is recrystallized from ethyl acetate to give an analytical sample, melting point 156°-165° C., [α]D =-89.4° (c=0.8, methanol).

reactant | (2S,3S)-3-[(benzyloxycarbonyl) amino]-2-hydroxy-4-phenylbutanoic acid | 2 mmol, 658 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](C(=O)O)O)CC1=CC=CC=C1 | C18H19NO5
reactant | hydroxybenzotriazole hydrate | 2.4 mmol, 368 mg | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 2 mmol, 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | N,N'-dicyclohexylcarbodiimide | 2 mmol, 412 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | L-proline, t-butyl ester | N1[C@H](C(=O)OC(C)(C)C)CCC1 | C9H17NO2
